US07442839B2
i) 1-Bromo-3-(cyclopentylthio)benzene
Iodocyclopentane (3.93 ml) was added to a mixture of 3-bromobenzenethiol and potassium carbonate (5.4 g) in acetone (50 ml) and the reaction was stirred under nitrogen for 1.5 h. A further portion of iodocyclopentane (2 ml) was added and the mixture was stirred for 1 h. The solvent was evaporated and the residue was partitioned between water and EtOAc. he combined organic extracts were washed with NaOH (2N), brine and dried (Na2SO4). The resulting oil was purified using biotage™ chromatography on silica using cyclohexane as eluant to give the title compound (3.6 g). LCMS RT=4.1 min

reactant | Iodocyclopentane | 3.93 ml | IC1CCCC1 | C5H9I
reactant | 3-bromobenzenethiol | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodocyclopentane | 2 ml | IC1CCCC1 | C5H9I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-Bromo-3-(cyclopentylthio)benzene | 3.6 g | BrC1=CC(=CC=C1)SC1CCCC1 | C11H13BrS
